US04547518
N-(4,5-Dihydro-1-ethyl-1H-pyrazol-4-yl)4-fluorobenzamide
In accordance with the procedure of Example 2, N-(1,2-diethyl-4-pyrazolidinyl)-4-fluorobenzamide is reacted with sodium hypochlorite and the product is isolated.

reactant | N-(1,2-diethyl-4-pyrazolidinyl)-4-fluorobenzamide | C(C)N1N(CC(C1)NC(C1=CC=C(C=C1)F)=O)CC | C14H20FN3O
reactant | sodium hypochlorite | Cl[O-].[Na+]
product | N-(4,5-Dihydro-1-ethyl-1H-pyrazol-4-yl)4-fluorobenzamide | C(C)N1N=CC(C1)NC(C1=CC=C(C=C1)F)=O | C12H14FN3O
